US05607956
1-(2,4-Dimethyl-5-oxazolyl)-1-(3-furyl)ethene Hydrochloride
1-(2,4-Dimethyl-5-oxazolyl)-1-(3-furyl)-1-methoxyethane (790 mg) in dry diethylether was treated with 1M anhydrous hydrogen chloride in diethylether (1.2 equivalents). The title compound was obtained as a white solid which was filtered off, washed and dried. M.p. 128.5°-130° C.

reactant | 1-(2,4-Dimethyl-5-oxazolyl)-1-(3-furyl)-1-methoxyethane | 790 mg | CC=1OC(=C(N1)C)C(C)(OC)C1=COC=C1 | C12H15NO3
reactant | hydrogen chloride | 1M | Cl | ClH
solvent | diethylether | C(C)OCC | C4H10O
solvent | diethylether | 1.2 equivalents | C(C)OCC | C4H10O
product | 1-(2,4-Dimethyl-5-oxazolyl)-1-(3-furyl)ethene Hydrochloride | Cl.CC=1OC(=C(N1)C)C(=C)C1=COC=C1 | InChI=1S/C11H11NO2.ClH/c1-7(10-4-5-13-6-10)11-8(2)12-9(3)14-11;/h4-6H,1H2,2-3H3;1H
